US07452909B2
4-[1-(Pyridin-2-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine
Sodium hydride (69 mg, 55%, 1.59 mmol) was suspended in 2 mL dry THF. A solution of 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine (95 mg, 0.48 mmol) in 8 mL dry THF was added and the reaction mixture was stirred at room temperature for 30 min. 2-(Bromomethyl)pyridine hydrobromide (162 mg, 0.63 mmol) was added and stirring was continued overnight. The reaction mixture was poured into 70 mL water and extracted three times with ethyl acetate (70 mL each). The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (dichloromethane/methanol 100:0→90:10 gradient) and a mixture of two regioisomers was obtained. This mixture could be separated by crystallization from diethylether and the desired compound was obtained as a white solid (35 mg, 25%), MS: m/e=289.1 (M+H30).

reactant | Sodium hydride | 1.59 mmol, 69 mg | [H-].[Na+]
reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | 0.48 mmol, 95 mg | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 2-(Bromomethyl)pyridine hydrobromide | 0.63 mmol, 162 mg | Br.BrCC1=NC=CC=C1
reactant | water | 70 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-[1-(Pyridin-2-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine | N1=C(C=CC=C1)CN1C(=NC(=C1)C#CC1=CC(=NC=C1)C)C | C18H16N4
